Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine; Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___.
 
Chief Complaint:
Hypotension/Diarrhea
 
Major Surgical or Invasive Procedure:
Flexible Sigmoidoscopy with biopsies

 
History of Present Illness:
___ h/o AML (erythroleukemia s/p sibling-matched BMT ___ c/b 
gvhd mouth, colon), who was in her usoh until ___, when she 
awoke in the AM and had ~6 episodes of diarrhea (loose, 
non-bloody, not watery). her symptoms resolved completly by 
lunch and did not recur until ___ ~9AM-12PM, when she had ___ 
more episodes of similar diarrhea. She reports recurrence again 
at 9PM. On the morning of ___, she notes increasing frequency 
of diarrhea, and while on toilet, felt LH/dizzy, and "my eyes 
rolled back in my head" but no frank syncope or head trauma. EMS 
was activated, and she was brought to the ED.  
.  
She denies any recent medication changes, antibiotics, shellfish 
or seafood exposure (haddock x 1 last week), no new water 
sources, no camping, no bloody stools.  
.  
ROS otherwise negative for fevers, chills, ns, cough, sore 
throat, sinus congestion, body aches, ha/neck stiff, rash, n/v, 
abdominal pain (other than mild cramping x 1 ___ night), 
dysuria, melena.  
.  
Pt presented to the ED with VS: 98.6 ___ 16 96%2L. No 
complaints of cp/sob though did note abdominal pain and 
diarrhea. given fever (103 rectal) and low BP (down to 59/38), 
was started on sepsis protocol. given 6L IVF, started on ___ 
gtt, lactate up to 2.4, given decadron 10 iv, flagyl, 
ceftazadime at ~1250, and vancomycin 1gm @ 1715. also given 
zofran, humalog. BP up to 139/57 on levo gtt 0.4, so weaned down 
to 0.16. pt mentating throughout.  
.  
Given ongoing pressor requirement, pt transferred to ___ for 
further w/o of sepsis.  
.  

 
Past Medical History:
-Onc-
diagnosed in ___ on routine blood work that showed 
pancytopenia, BM Bx showed myelodysplasia with no cytogenetic 
abnormalities, repeat BM Bx showed acute erythrolekemia
admitted ___ for induction chemotherapy with 7+3 cytarabine and 

idarubicin, which she tolerated well, Day 14 bone marrow 
showed zero blasts, consistent with complete ablation
Underwent allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___
mild GVHD, skin (mouth)
-Hypertension
-Hypercholesterolemia
-GERD
-Diet-controlled DM
-Diverticulosis, noted on colonoscopy ___ years ago
-Occasional bronchospasm treated with Primatene Mist
 
Social History:
___
Family History:
patient's mother with a history of stroke. Both of her maternal 
and paternal grandmothers also had a history of CVA. Father with 
history of colon ___. No other known history of cancer in the 
family. No known blood disorders. Has a sister with ___. 
Has 2 sisters, the other sister with hypertension. 
 
Physical Exam:
VS: 97.4 63 137/66 16 98%2L, CVP 6 on levo gtt.  
GEN: NAD  
HEENT: PERRLA, EOMI, sclera anicteric, OP clear no oral ulcers, 
MMM, no LAD, no carotid bruits. No JVD.  
CV: regular, nl s1, s2, no m/r/g.  
PULM: CTAB, no r/r/w. right subclavian TLC in place.  
ABD: soft, NT, ND, + BS (hypoactive), no HSM.  
EXT: warm, 2+ dp/radial pulses ___.  
NEURO: alert & oriented x 3, CN II-XII grossly intact.  

 
Pertinent Results:
___ WBC-8.3 Hgb-12.9 Hct-38.2 MCV-99* Plt ___
___ WBC-11.0 Hgb-11.2* Hct-32.5* MCV-99* Plt ___
___ WBC-14.4* Hgb-11.8* Hct-34.4* MCV-99* Plt ___
___ Glucose-104 UreaN-12 Creat-1.4* Na-143 K-3.1* Cl-108 
HCO3-23
___ Glucose-93 UreaN-11 Creat-1.2* Na-141 K-3.1* Cl-113* 
HCO3-17
___ Glucose-148* UreaN-10 Creat-1.2* Na-144 K-3.5 Cl-116* 
HCO3-16
___ ALT-22 AST-19 CK(CPK)-43 AlkPhos-48 TotBili-0.5
___ ALT-35 AST-63* LD(LDH)-255* CK(CPK)-312* AlkPhos-41 
TotBili-0.3
___ cTropnT-<0.01
___ CK-MB-30* MB Indx-12.7* cTropnT-0.40*
___ Albumin-2.9* Calcium-8.3* Phos-3.5 Mg-2.6
___ Cortsol-3.8
___ Cortsol-9.8
___ Cortsol-12.2
___ CRP-11.9* 
.
MICRO DATA:
___ 2:34 pm Influenza A/B by ___
      Source: Nasopharyngeal aspirate. 
      RESPIRATORY ANTIGEN TEST ADDED ___ 
___. 

   DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Negative for Influenza A viral antigen. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      NEGATIVE FOR INFLUENZA B VIRAL ANTIGEN. 

   Rapid Respiratory Viral Antigen Test (Final ___: 
      Respiratory viral antigens not detected. 
      CULTURE CONFIRMATION PENDING. 
      SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA 
A,B AND
      RSV. 
      This kit is not FDA approved for direct detection of 
parainfluenza
      virus in specimens; interpret parainfluenza results with 
caution. 

   VIRAL CULTURE (Preliminary):    No Virus isolated so far. 
.
___ 1:17 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

   FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final ___: 
      FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA. 
           (Reference Range-Negative). 

   VIRAL CULTURE (Preliminary):    No Virus isolated so far. 
.
___ C. Diff negative
.
___ C. Diff negative
.
___ BLOOD CULTURE negative
___ Blood culture negative
___ Blood culture negative
.
STUDIES:  
___ CXR:  
The cardiomediastinal silhouette is stable in appearance. There 
is  
a new right subclavian central venous catheter with tip 
overlying the expected region of the cavoatrial junction. No 
pneumothorax is detected. The lungs are clear.  
.  
___ EKG 2249: sinus brady 56bpm, low voltage limb leads, no 
ste, std, twi, QTc 503 (elevated)  
.  
___ CT ABD/PELVIS (w/o contrast) - PRELIM  
1. No acute intra-abdominal pathology.  
2. Extensive atherosclerotic disease of the abdominal aorta and 
its branches, without focal dilatation or aneurysm. However, 
please note that the patient's known saccular descending 
thoracic aortic arch aneurysm is not evaluated on this study.  
.
___ TTE:  The left atrium and right atrium are normal in 
cavity size. Left ventricular wall thickness, cavity size, and 
global systolic function are normal (LVEF>55%). Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. No resting LVOT gradient. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are mildly thickened. There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. No mitral regurgitation is 
seen. [Due to acoustic shadowing, the severity of mitral 
regurgitation may be significantly UNDERestimated.] The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. No 
structural cardiac cause of syncope identified. 
Compared with the prior report (images unvailable for review) of 
___, the findings are similar. 
.
___ LUE venous ultrasound: 1. Thrombus in the distal 
cephalic vein adherent to the indwelling venous catheter 
consistent with superficial thrombophlebitis.
2. No evidence of left upper extremity DVT.
.
___ Rectal mucosal biopsy: Within normal limits. No viral 
inclusions or tumor seen.
.
___ CTA chest: 
1. No dissection or PE is identified. There is a stable small 
saccular aneurysm along the inferior aspect of the descending 
aortic arch.
2. New small regions of subpleural ground-glass opacity in the 
right upper lobe. Appearance is nonspecific.
3. Small bilateral pleural effusions left greater than right, 
new compared to the previous examination.
.
___ CT chest:
1. Interval increase in size and extent of predominantly 
right-sided ground- glass opacities. The differential diagnosis 
would include cryptogenic organizing pneumonia as well as 
atypical infections including atypical mycobacterial infection.
2. Stable bilateral pleural effusions.
.
 
Brief Hospital Course:
# Sepsis - Upon admission, the patient had a picture concerning 
for sepsis given fever, leukocytosis, bandemia & diarrhea.  
Source, however, remained unclear.   CT of abd/pelvis without 
pathology, and degree of described diarrhea seemed inconsistent 
with her degree of hypotension.  Differential diagnosis also 
included hypovolemia secondary to diarrhea, ACS with + trop 
(though more likely ___ demand ischemia,) and adrenal 
insufficiency likely contributing to profound hypotension on 
admission given marginal cortisol stim test on day of admission. 
 She had normal CVPs and SVO2s and adequate renal function 
making cardiogenic shock unlikely.  Patient was bolused with a 
total of 6L on admission, and pressures were supported with 
levophed. Pressors were successfully weaned.  The patient was 
given stress dose steroids given marginal cortisol stim test in 
the setting of chronic steroid use.  Stool cultures were 
negative and her diarrhea decreased in frequency and amount.  
Patient had an unchanged CXR.  Patient was started on 
vanc/cipro/flagyl for broad spectrum coverage, and given 
negative cultures for 48hrs, vanc was discontinued on day of 
transfer to the floor.  DFA, viral sputum cultures, urine 
culture, urine legionella, and blood cultures were all negative. 
 The patients hydrocortisone was switched to predisone at a 
lower converted dose, and aggressively tapered.
.
On ___, the patient became hypotensive with SBP in the ___ and 
fevers/rigors. She also desatted to 89% on RA. She received ~5L 
IVF and stabilized to 100-110s, O2 sat improved and she was put 
back on room air. CT revealed small ground glass opacities in 
the RUL concerning for a possible pneumonia. She was started on 
meropenem, linezolid, and azithromycin for broad coverage 
however no source of infection was found. Urine legionella 
negative. Discontinued linezolid on ___ as no evidence for 
staph bacteremia. She developed a drug rash and meropenem was 
continued. She completed a 7 day course of azithromycin for 
empiric pneumonia coverage. She remained in the hospital for one 
week after this event and her blood pressure remained stable 
throughout.
.
# Syncopal episode - On ___ the patient had a syncopal episode 
in the setting of rising from seated position. She was 
unresponsive for approx 30 seconds. Vitals demonstrated systolic 
BP of 78 and HR ___. She awoke quickly and BP responded to 
fluids appropriately. This was felt most consistent with 
vasovagal syncope. No events on telemetry. This was in the 
setting of adrenal insufficiency and she had been rapidly 
tapered from stress dose steroids after being transferred out of 
the MICU. Her prednisone dose was increased after this episode 
and tapered slowly. She was discharged on 10mg prednisone daily.
  
# N/V/Diarrhea- The patient has no recent antibiotic use. 
Differential diagnosis includes bacterial vs viral infection vs 
GVHD.  CT abd/pelvis without evidence of colitis or SBO.  LFTs 
unremarkable.  Stool cultures without growth to date.  Currently 
tolerating regular diet but continued to have loose stools. 
Underwent flex sigmoidoscopy on ___. Path results pending. 
Cipro/flagyl were discontinued out of concern for contributing 
to drug rash (see below).
.
# ARF – The patient presented with creatinine of 1.4 (baseline 
0.9-1.1) & non gap acidosis likely secondary to diarrhea, 
bicarbonate loss & NS resuscitation. Creatinine trended down to 
baseline with IVF and hyperchloremic acidosis resolved. 

# ONC - The patient is with a history or erythroleukemia 
evolving from MDS ___, s/p allogeneic BMT from an HLA-matched 
sibling donor on ___, complicated by mild GVHD diagnosis 
___ and started on prednisone.  Patient was continued on 
prophylaxis of acyclovir, fluconazole, pentamadine for PCP 
___.  Stress dose hyrocortisone was given in setting of 
sepsis, and her dose was rapidly tapered. She was discharged on 
10mg prednisone daily for GVH prophylaxis.   

# Cardiac - On admission, the patient denied chest pain or 
shortness of breath.  In the setting of hypotension and 
tachycardia on admission, she had anterior ST segment 
depressions.  Serial enzymes were were levated, with a peak 
troponin of 1.12 which trended downward.  With fluid 
resuscitation and resolution of tachycardia, the ischemic 
changes on her EKG resolved.  Thus they were felt to be demand 
ischemia in the setting of sepsis.  Patient essentially failed 
physiologic stress test, and should have out patient cardiac 
follow up with exercise stress test.  Echo was unchanged, with 
preserved systolic function.  In addition to the EKG changes 
noted above, her rhythm was sinus bradycardia & new prolonged QT 
on admission.  Repeat EKG showed QT in 480s, sinus brady. On 
___ the patient had a syncopal episode as above. No symptoms of 
chest pain, no ECG changes. Repeat CE demonstrate flat CK but 
troponin of 0.59. Discussed with cardiology and was felt to not 
be consistent with ACS.
.
# Drug rash - The patient developed 2 drug rashes during her 
admission, felt most likely to be due to a reaction to 
ceftriaxone and meropenem. She had elevated peripheral 
eosinophils which supports this. She was evaluated by 
dermatology, who agreed. She was instructed that unless needed 
in a critical situation, she should not take these antibiotics.
.
# Hyperlipidemia: She was not on a statin, however she was 
recruited to an ED sepsis trial involving statins and was put on 
the study drug.
.
# GERD - She was continued on her outpatient regimen of 
protonix. 
.
# Diabetes Mellitus Type 2: Her diabetes is diet-controlled at 
home. She was covered with a regular insulin sliding scale 
during her hospitalization.
.
 
Medications on Admission:
1. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H  
2. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H  
3. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H  
4. Pantoprazole 40 mg Tablet, Delayed Release PO Q12H  
5. Prednisone 5mg po QDAILY (tapered from 30mg last admission)  
6. Pentamidine 300 mg Recon Soln Sig: One (1) Inhalation once a  

month for 6 months. (next dose due ___  
.  

 
Discharge Medications:
1. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
2. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for anxiety/nausea.
Disp:*15 Tablet(s)* Refills:*0*
6. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
7. Clobetasol 0.05 % Ointment Sig: One (1) Appl Topical BID (2 
times a day) for 10 days.
Disp:*1 tube* Refills:*0*
8. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
9. Pentamidine 300 mg Recon Soln Sig: Three Hundred (300) mg 
Inhalation once a month: next dose ___.  
10. Blood pressure cuff
blood pressure cuff for home monitoring
.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Diarrhea
.
Secondary:
Adrenal insufficiency
Drug rash (reaction to ceftriaxone and meropenem)
.
 
Discharge Condition:
Afebrile, VSS, clinically improved. Rash resolving.
.
 
Discharge Instructions:
You were admitted to the hospital with low blood pressure and 
diarrhea. The cause of the diarrhea was unclear. You were 
treated with antibiotics in case there was an infectious cause, 
but no source of infection was found. On the regular medical 
floor, you had an episode where you passed out due to low blood 
pressure. The next day you had a fever with low blood pressure. 
Again there was concern for an infection and you responded well 
to antibiotics, but no source of infection was found. 
.
You were found to have an allergy to 2 antibiotics-- meropenem 
and ceftriaxone. Both caused rash. Please be sure to alert all 
healthcare workers in the future that you are allergic to these 
medications. You should not take either medication unless 
absolutely necessary. You have been given a prescription for 
clobetasol ointment which you can apply to affected areas twice 
daily for the next ___ days.
.
Please take all medications as prescribed. You can now restart 
your daily aspirin.
.
You were found to be adrenally insufficient on this admission. 
You will need to continue taking prednisone 10mg daily until you 
see an endocrinologist. This will be arranged by ___ 
___, your oncology NP.
.
You have been given a prescription for a blood pressure cuff. 
Please check your blood pressure every day at the same time of 
day. If you note a blood pressure reading where the top number 
("systolic") is less than 90, please re-check. If it is still 
less than ___ you should take an extra 10mg of prednisone and go 
to the emergency room. If you ever feel dizzy or lightheaded, 
you should also check your blood pressure.
.
If you develop fever > 101, chest pain, shortness of breath, or 
profuse diarrhea, please go to the nearest emergency room.
.
 
Followup Instructions:
___